US06251926B1
A mixture of 2-hydroxyimino-2-(3-phenoxyphenyl)acetonitrile (3.00 g), potassium hydroxide (3.40 g), ethanol (15 ml) and water (15 ml) was heated under reflux for 24 hours. The reaction mixture was acidified with 1 N HCl, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The reaction mixture was dissolved in methanol (30 ml), admixed with concentrated sulfuric acid (a catalytic amount), and then heated under reflux for 24 hours. The reaction mixture was combined with aqueous sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain methyl Z-2-hydroxyimino-2-(3-phenoxyphenyl)acetate (1.14g, yield 33%) as an oil from a fraction eluted with ethyl acetate-hexane (1:2, v/v).

reactant | 2-hydroxyimino-2-(3-phenoxyphenyl)acetonitrile | 3.00 g | ON=C(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H10N2O2
reactant | potassium hydroxide | 3.40 g | [OH-].[K+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | HCl | 1 N | Cl | ClH
solvent | water | 15 ml | O | H2O
product | methyl Z-2-hydroxyimino-2-(3-phenoxyphenyl)acetate | 1.14g, yield 33% | O\N=C(/C(=O)OC)\C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H13NO4
